US05093370
2,6-Bis(3-triethylammoniopropyl)naphthalene diiodide
To a solution of 78 mg of 2,6-bis(3-diethylaminopropyl)naphthalene in 1 ml of absolute ethanol was added 176 μl of ethyl iodide, and the mixture was refluxed for 140 minutes and cooled. After adding 2 ml of acetone, the mixture was stirred for 20 minutes. The resulting crystal was collected by filtration, washed with acetone and dried under a reduced pressure to obtain 117 mg of the title compound as a colorless crystal.

reactant | 2,6-bis(3-diethylaminopropyl)naphthalene | 78 mg | C(C)N(CCCC1=CC2=CC=C(C=C2C=C1)CCCN(CC)CC)CC | C24H38N2
reactant | ethyl iodide | 176 μl | C(C)I | C2H5I
reactant | acetone | 2 ml | CC(=O)C | C3H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2,6-Bis(3-triethylammoniopropyl)naphthalene diiodide | 117 mg | [I-].[I-].C(C)[N+](CCCC1=CC2=CC=C(C=C2C=C1)CCC[N+](CC)(CC)CC)(CC)CC | InChI=1S/C28H48N2.2HI/c1-7-29(8-2,9-3)21-13-15-25-17-19-28-24-26(18-20-27(28)23-25)16-14-22-30(10-4,11-5)12-6;;/h17-20,23-24H,7-16,21-22H2,1-6H3;2*1H/q+2;;/p-2
